US06054457
To a solution of 3-bromopropylamine hydrobromide (5.0 g) and diisopropylethylamine (5.90 g) in dichloromethane (80 ml) was added portionwise 9-fluorenylmethoxycarbonyl chloride (5.91 g) and the mixture was stirred at ambient temperature for 3 hours and stand overnight. The resulting mixture was diluted with dichloromethane (50 ml) and the organic layer was washed successively with 1N hydrochloric acid and brine. Drying, filtering and removal of solvents afforded a crude product. The crude product was triturated with diethyl ether-hexane (1:5) to give 3-(9-fluorenylmethoxycarbonylamino)propyl bromide (7.82 g).

reactant | 3-bromopropylamine hydrobromide | 5.0 g | Br.BrCCCN
reactant | diisopropylethylamine | 5.90 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 9-fluorenylmethoxycarbonyl chloride | 5.91 g | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)Cl | C15H11ClO2
solvent | dichloromethane | 80 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 3-(9-fluorenylmethoxycarbonylamino)propyl bromide | 7.82 g | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)NCCCBr | C18H18BrNO2
